US05612373
Di-t-butyl dicarbonate (8 g) was added to a stirred mixture of 3-piperidin-4-ylpropionic acid hydrochloride (4 g), 0.5M sodium hydroxide solution (100 ml) and t-butanol (25 ml). The mixture was stirred at ambient temperature for 20 hours. The solvent was removed by evaporation and the residue was diluted with water (50 ml) and extracted with hexane (100 ml). The aqueous layer was separated, acidified with 10% potassium hydrogen sulphate solution to pH4 and extracted with ethyl acetate (2×75 ml). The combined ethyl acetate extracts were washed with saturated sodium chloride solution (25 ml) and dried (MgSO4). The solvent was removed by evaporation to give 3-(1-t-butoxycarbonylpiperidin-4-yl)propionic acid as a solid; NMR Spectrum (d6 -DMSO) 0.8-1.1 (m, 2H), 1.25-1.5 (m, 12H), 1.6 (br d, 2H), 2.22 (t, 2H), 2.62 (t, 2H), 3.9 (br d, 2H); Mass Spectrum (CI+, ACE) 258 (M+H)+.

reactant | Di-t-butyl dicarbonate | 8 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-piperidin-4-ylpropionic acid hydrochloride | 4 g | Cl.N1CCC(CC1)CCC(=O)O
reactant | sodium hydroxide | 0.5M, 100 ml | [OH-].[Na+]
solvent | t-butanol | 25 ml | C(C)(C)(C)O | C4H10O
product | 3-(1-t-butoxycarbonylpiperidin-4-yl)propionic acid | C(C)(C)(C)OC(=O)N1CCC(CC1)CCC(=O)O | C13H23NO4
